US08293768B2
Synthesis of N-benzyl-4-methyl-2-(2-oxo-3-phenethylimidazolidin-1-yl)thiazole-5-carboxamide
Following the procedure as describe in Example 9, making variations as required to replace 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid with 4-methyl-2-(2-oxo-3-phenethylimidazolidin-1-yl)thiazole-5-carboxylic acid to react with benzylamine, the title compound was obtained as a white powder in 26% yield: mp 156-157° C.; 1H NMR (300 MHz, CDCl3) δ 7.36-7.18 (m, 10H), 5.93 (s, 1H), 4.54 (d, J=5.7 Hz, 2H), 3.99 (t, J=7.8 Hz, 2H), 3.54 (t, J=7.2 Hz, 2H), 3.41 (t, J=7.8 Hz, 2H), 2.87 (t, J=7.2 Hz, 2H), 2.59 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 162.4, 157.3, 155.3, 153.0, 151.7, 138.2, 137.9, 128.7, 128.6, 127.8, 127.6, 126.7, 117.1, 45.3, 44.0, 42.7, 42.0, 34.0, 17.2; MS (ES+) m/z 421.2 (M+1).

reactant | 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C15H15N3O3S
reactant | 4-methyl-2-(2-oxo-3-phenethylimidazolidin-1-yl)thiazole-5-carboxylic acid | CC=1N=C(SC1C(=O)O)N1C(N(CC1)CCC1=CC=CC=C1)=O | C16H17N3O3S
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | N-benzyl-4-methyl-2-(2-oxo-3-phenethylimidazolidin-1-yl)thiazole-5-carboxamide | 26% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(N(CC1)CCC1=CC=CC=C1)=O)C | C23H24N4O2S
